US09234062B2
A supply of BCTFB was obtained by reacting ethylene with dibrominated CTFE in 1,1,1,3,3-pentafluorobutane at 120° C. for 4 hours using a mixture of tert-butyl peroxypivalate (TBPPi, 3 mol %) and 2,5-bis(tert-butylperoxy)-2,5-dimethylhexane (Trigonox 101, 4.5 mol %) as radical initiators, with the resulting structure being Br—CF2—CFCl—CH2—CH2—Br after distillation under vacuum. This was dehydrochlorinated with KOH in refluxing methanol for 15 hours, forming Br—CF2—CFCl—CH═CH2 (BCTFB). Successful radical copolymerization of CTFE (96 mol % in the feed) with BCTFB initiated by TBPPi (2 mol % with respect to both monomers) was carried out at 74° C. in a 100 mL autoclave. The 19F NMR spectrum of the obtained polymer is shown in FIG. 7.

reactant | ethylene | C=C | C2H4
reactant | CTFE | C(=C(F)Cl)(F)F | C2ClF3
reactant | tert-butyl peroxypivalate | C(C(C)(C)C)(=O)OOC(C)(C)C | C9H18O3
reactant | 2,5-bis(tert-butylperoxy)-2,5-dimethylhexane | C(C)(C)(C)OOC(C)(CCC(C)(C)OOC(C)(C)C)C | C16H34O4
reactant | Br—CF2—CFCl—CH2—CH2—Br | BrC(F)(F)C(F)(Cl)CCBr | C4H4Br2ClF3
solvent | 1,1,1,3,3-pentafluorobutane | FC(CC(C)(F)F)(F)F | C4H5F5
product | Br—CF2—CFCl—CH═CH2 | BrC(F)(F)C(F)(Cl)C=C | C4H3BrClF3
